US05834521
2-[(3-Aminophenyl)methyl]-2-methyl-1-indanone
2-[(3-Aminophenyl)methyl]indan-1-one (5.18 g, 22.0 mmol) in tetrahydrofuran (100 mL) was slowly added to a suspension of sodium hydride (2.20 g, 65.0 mmol), and tetrahydrofuran (100 mL) at room temperature and the mixture was stirred for 30 min. Methyl iodide (1.63 mL, 26.0 mmol) was added and the resulting mixture was stirred at room temperature for 5 h. Water (150 mL) was added, followed by methylene chloride (150 mL) and the resulting aqueous layer was washed with several portions of methylene chloride. The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a solid: mp 95°-98° C., MS MH+252.

reactant | 2-[(3-Aminophenyl)methyl]indan-1-one | 22.0 mmol, 5.18 g | NC=1C=C(C=CC1)CC1C(C2=CC=CC=C2C1)=O | C16H15NO
reactant | sodium hydride | 65.0 mmol, 2.20 g | [H-].[Na+]
reactant | Methyl iodide | 26.0 mmol, 1.63 mL | CI | CH3I
reactant | Water | 150 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3-Aminophenyl)methyl]-2-methyl-1-indanone | NC=1C=C(C=CC1)CC1(C(C2=CC=CC=C2C1)=O)C | C17H17NO
